US08541432B2
To a solution of the mixture of 4-Oxo-4,5,6,8-tetrahydro-3H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester and 4-Oxo-3,5,7,8-tetrahydro-4H-pyrido[4,3-d]pyrimidine-6,7-dicarboxylic acid 6-tert-butyl ester 7-ethyl ester (1.5 g, 4.64 mmol) in DCE (25 mL), carbon tetrachloride (1.34 mL, 13.9 mmol) and triphenylphosphine (2.43 g, 9.28 mmol) are added. The reaction is heated at reflux and after completion of reaction as judged by LCMS. The solvents are removed and the products are isolated using FCC eluting with heptane:EtOAc 80:20. At this point the two products are separated. 4-Chloro-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester MS (ESI) m/z 342.1 (M+1) and 4-chloro-7,8-dihydro-5H-pyrido[4,3-a]pyrimidine-6,7-dicarboxylic acid 6-tert-butyl ester 7-ethyl ester MS (ESI) m/z 342.1 (M+1) are isolated as an almost 4:1 ratio.

reactant | 4-Oxo-4,5,6,8-tetrahydro-3H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C1CC2=C(N=CNC2=O)CN1C(=O)OC(C)(C)C | C15H21N3O5
reactant | 4-Oxo-3,5,7,8-tetrahydro-4H-pyrido[4,3-d]pyrimidine-6,7-dicarboxylic acid 6-tert-butyl ester 7-ethyl ester | 4.64 mmol, 1.5 g | C(C)OC(=O)C1CC=2N=CNC(C2CN1C(=O)OC(C)(C)C)=O | C15H21N3O5
reactant | carbon tetrachloride | 13.9 mmol, 1.34 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 9.28 mmol, 2.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
product | 4-Chloro-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C1CC2=C(N=CN=C2Cl)CN1C(=O)OC(C)(C)C | C15H20ClN3O4
